US05665718
6.9 g (21.4 mmol) of (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at 80° overnight and at 100° for 2 hours with 7.65 g (45 mmol) of propyl iodide in 80 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone and 6.5 g ([50 mmol) of N-ethyldiisopropylamine. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 3.32 g (38%) of (S)-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 208°-210°.

reactant | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 21.4 mmol, 6.9 g | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H14N6O2
reactant | propyl iodide | 45 mmol, 7.65 g | C(CC)I | C3H7I
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 80 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | (S)-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 3.32 g, 38% | C(CC)N(CCC)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C22H26N6O2
